US07399759B2
N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]propanamide
2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (500 mg, 1.3 mmol) was dissolved in N,N-dimethylacetamide (10 ml), and propionyl chloride (370 mg, 4.0 mmol) was added thereto. The reaction mixture was stirred at 60° C. for 16 hrs and combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (1:20, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (224 mg, 53%) as white crystals.

reactant | 2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.3 mmol, 500 mg | FC(C(=O)O)(F)F.NCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | propionyl chloride | 4.0 mmol, 370 mg | C(CC)(=O)Cl | C3H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]propanamide | 224 mg, 53% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CNC(CC)=O | C17H15N3O2S
